US04639521
4-Cyano-2,3,5,6,7,8-hexahydro-1-methyl-3-oxoisoquinoline (1.88 g) was dissolved in 20 ml of 85% sulfuric acid, and the resultant solution was heated at 180°-190° C. for 10 hours. After cooling, the reaction mixture was poured into ice water and an aqueous sodium hydroxide solution was added to adjust the pH to about 5. Deposited crystals were filtered out and recrystallized from methanol. Thus, there was obtained 1.28 g of 2,3,5,6,7,8-hexahydro-1-methyl-3-oxoisoquinoline.

reactant | 4-Cyano-2,3,5,6,7,8-hexahydro-1-methyl-3-oxoisoquinoline | 1.88 g | C(#N)C=1C(NC(=C2CCCCC12)C)=O | C11H12N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3,5,6,7,8-hexahydro-1-methyl-3-oxoisoquinoline | 1.28 g | CC=1NC(C=C2CCCCC12)=O | C10H13NO
